### PR TITLE
[Merged by Bors] - feat: port Control.Basic

### PR DESCRIPTION
**Pull request by ADedecker**
mathlib3 SHA: 08aeb33b5b693fb1392a7568ae2c0b253516535e

porting notes:
1. The notation `$<` has been removed entirely. It is the same operation as `|>` in Lean 4 except with lower priority and a quick grep revealed it occurred literally nowhere in mathlib3.
2. The dubious translation errors were due to order of implicit arguments and have been `#alignₓ`ed (except `Sum.bind` I'm not sure what the issue was, see [Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/why.20dubious.3F))
3. The `fish` definition is no longer needed because `>=>` has the correct (i.e., same as mathlib3's `fish`) binding precedence (`55`) in core Lean 4.
4. It should be noted that `>=>` was left-associative in Lean 3, but it is now right-associative in Lean 4. There is a comment to this effect near `fish_assoc`.

### CODE REVIEW

**Comment by semorrison** [comment]
Can you please lint?

**Comment by j-loreaux** [comment]
I've added docstrings to the `def`s, but they should be checked for accuracy and readability.

**Comment by Ruben-VandeVelde** [comment]
Fixed merge conflict due to #550

File: Mathlib/Control/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,265 @@
...
+-- TODO: setup `functor_norm` for `monad` laws
+attribute [functor_norm] pure_bind bind_assoc bind_pure
+
+section Monad
+
+variable {m : Type u → Type v} [Monad m] [LawfulMonad m]
+
+open List
+
+/-- A generalization of `List.partitionM` which partitions the list according to a monadic
```
Comment (semorrison) [inline Mathlib/Control/Basic.lean:84]:
```suggestion
/-- A generalization of `List.partition` which partitions the list according to a monadic
```

File: Mathlib/Control/Basic.lean [hunk 2]
```diff
@@ -0,0 +1,265 @@
...
+  LawfulMonad.pure_bind a id
+#align mjoin_pure joinM_pure
+
+end
+
+section Alternative
+
+variable {F : Type → Type v} [Alternative F]
+
+-- [todo] add notation for `Functor.mapConst` and port `functor.map_const_rev`
```
Comment (semorrison) [inline Mathlib/Control/Basic.lean:177]: Is this a todo for this PR, or for later?

Comment (j-loreaux) [reply Mathlib/Control/Basic.lean:177]: Note sure what Anatole had in mind here, but `functor.map_const_rev` is in Lean 3 core: https://leanprover-community.github.io/mathlib_docs/init/control/functor.html#functor.map_const_rev

As for notation, I think it can wait. Either way, I expect this todo is not necessary for this PR.

File: Mathlib/Control/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,265 @@
...
+
+namespace Sum
+
+variable {e : Type v}
+
+/-- The monadic `bind` operation for `Sum`. -/
+protected def bind {α β} : Sum e α → (α → Sum e β) → Sum e β
+  | inl x, _ => inl x
+  | inr x, f => f x
+#align sum.bind Sum.bindₓ
```
Comment (j-loreaux) [inline Mathlib/Control/Basic.lean:207]:
```suggestion
#align sum.bind Sum.bindₓ
-- incorrectly marked as a bad translation by mathport
```

File: Mathlib/Control/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,265 @@
...
+  rw [← bind_pure_comp, bind_assoc] <;> simp [bind_pure_comp]
+#align map_bind map_bind
+
+theorem seq_bind_eq (x : m α) {g : β → m γ} {f : α → β} :
+    f <$> x >>= g = x >>= g ∘ f :=
+  show bind (f <$> x) g = bind x (g ∘ f)
+  by rw [← bind_pure_comp, bind_assoc] <;> simp [pure_bind, (· ∘ ·)]
+#align seq_bind_eq seq_bind_eq
+
+#align seq_eq_bind_map seq_eq_bind_mapₓ
```
Comment (j-loreaux) [inline Mathlib/Control/Basic.lean:105]:
```suggestion
#align seq_eq_bind_map seq_eq_bind_mapₓ
-- order of implicits and `Seq.seq` has a lazily evaluated second argument using `Unit`
```

**Review by j-loreaux — COMMENTED** [review]
add some comments about the dubious translations

File: Mathlib/Control/Basic.lean [hunk 5]
```diff
@@ -0,0 +1,269 @@
...
+#align mjoin_pure joinM_pure
+
+end
+
+section Alternative
+
+variable {F : Type → Type v} [Alternative F]
+
+-- [todo] add notation for `Functor.mapConst` and port `functor.map_const_rev`
+/-- Returns `pure true` if the computatoin succeeds and `pure false` otherwise. -/
```
Comment (Ruben-VandeVelde) [inline Mathlib/Control/Basic.lean:181]:
```suggestion
/-- Returns `pure true` if the computation succeeds and `pure false` otherwise. -/
```

File: Mathlib/Control/Basic.lean [hunk 6]
```diff
@@ -0,0 +1,269 @@
...
+    x <*> f <$> y = (· ∘ f) <$> x <*> y := by
+  simp [← pure_seq]
+  simp [seq_assoc, ← comp_map, (· ∘ ·)]
+  simp [pure_seq]
+#align seq_map_assoc seq_map_assoc
+
+@[functor_norm]
+theorem map_seq (f : β → γ) (x : F (α → β)) (y : F α) :
+    f <$> (x <*> y) = (f ∘ ·) <$> x <*> y := by
+  simp [← pure_seq] <;> simp [seq_assoc]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Control/Basic.lean:72]:
```suggestion
  simp [← pure_seq]; simp [seq_assoc]
```

File: Mathlib/Control/Basic.lean [hunk 7]
```diff
@@ -0,0 +1,269 @@
...
+
+/-- A generalization of `List.partition` which partitions the list according to a monadic
+predicate. `List.partition` corresponds to the case where `f = Id`. -/
+def List.partitionM {f : Type → Type} [Monad f] {α : Type} (p : α → f Bool) :
+    List α → f (List α × List α)
+  | [] => pure ([], [])
+  | x :: xs => condM (p x)
+    (Prod.map (cons x) id <$> List.partitionM p xs)
+    (Prod.map id (cons x) <$> List.partitionM p xs)
+#align list.mpartition List.mpartition
```
Comment (Ruben-VandeVelde) [inline Mathlib/Control/Basic.lean:94]:
```suggestion
#align list.mpartition List.partitionM
```

File: Mathlib/Control/Basic.lean [hunk 8]
```diff
@@ -0,0 +1,269 @@
...
+#align succeeds succeeds
+
+/-- Attempts to perform the computation, but fails silently if it doesn't succeed. -/
+def tryM {α} (x : F α) : F Unit :=
+  Functor.mapConst () x <|> pure ()
+#align mtry tryM
+
+@[simp]
+theorem guard_true {h : Decidable True} : @guard F _ True h = pure () := by simp [guard, if_pos]
+#align guard_true guard_True
```
Comment (Ruben-VandeVelde) [inline Mathlib/Control/Basic.lean:193]: Is it `guard_true` or `guard_True`? Same for false

File: Mathlib/Control/Basic.lean [hunk 9]
```diff
@@ -0,0 +1,269 @@
...
+  calc
+    f <$> a <*> b = (fun p : α × β => f p.1 p.2) <$> (Prod.mk <$> a <*> b) :=
+      by
+        simp [seq_map_assoc, map_seq, seq_assoc, seq_pure, map_map] <;> rfl
+    _ = (fun b a => f a b) <$> b <*> a :=
+      by
+        rw [@CommApplicative.commutative_prod m h] <;>
+        simp [seq_map_assoc, map_seq, seq_assoc, seq_pure, map_map, (· ∘ ·)]
+
+#align is_comm_applicative.commutative_map IsCommApplicative.commutative_map
```
Comment (Ruben-VandeVelde) [inline Mathlib/Control/Basic.lean:269]:
```suggestion
#align is_comm_applicative.commutative_map CommApplicative.commutative_map
```

**Review by Ruben-VandeVelde — APPROVED** [review]

File: Mathlib/Control/Basic.lean (hunk 8 above)
Comment (j-loreaux) [reply Mathlib/Control/Basic.lean:193]: The new align precheck is really nice for catching these. It's `guard_true` because definitions (or types) which appear in theorem names get `lowerCamelCased`.

File: Mathlib/Control/Basic.lean [hunk 10]
```diff
@@ -0,0 +1,269 @@
...
+-- order of implicits
+
+end Functor
+
+section Applicative
+
+variable {F : Type u → Type v} [Applicative F]
+
+/-- A generalization of `List.zipWith` which combines list elements with an `Applicative`. -/
+def zipMWith {α₁ α₂ φ : Type u} (f : α₁ → α₂ → F φ) : ∀ (_ : List α₁) (_ : List α₂), F (List φ)
```
Comment (semorrison) [inline Mathlib/Control/Basic.lean:38]: This should be called `zipWithM`, instead.

File: Mathlib/Control/Basic.lean [hunk 11]
```diff
@@ -0,0 +1,269 @@
...
+  simp only [(· >=> ·), functor_norm]
+#align fish_assoc fish_assoc
+
+variable {β' γ' : Type v}
+
+variable {m' : Type v → Type w} [Monad m']
+
+/-- Takes a value `β` and `List α` and accumulates pairs according to a monadic function `f`.
+Accumulation occurs from the right (i.e., starting from the tail of the list). -/
+def List.mapMAccumR (f : α → β' → m' (β' × γ')) : β' → List α → m' (β' × List γ')
```
Comment (semorrison) [inline Mathlib/Control/Basic.lean:131]: Similarly here, List.mapAccumRM?

File: Mathlib/Control/Basic.lean [hunk 12]
```diff
@@ -0,0 +1,269 @@
...
+namespace Sum
+
+variable {e : Type v}
+
+/-- The monadic `bind` operation for `Sum`. -/
+protected def bind {α β} : Sum e α → (α → Sum e β) → Sum e β
+  | inl x, _ => inl x
+  | inr x, f => f x
+#align sum.bind Sum.bindₓ
+-- incorrectly marked as a bad translation by mathport
```
Comment (semorrison) [inline Mathlib/Control/Basic.lean:211]: So shouldn't we remove the `\_x`?

File: Mathlib/Control/Basic.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Control/Basic.lean:180]: I left this todo because I couldn't directly port the mathlib3 definition of `succeeds` as `(x $> tt) <|> pure ff` due to the absence of `functor.map_const_rev` (which doesn't seem to have an analog in Lean4), and I also noticed that (unlike in mathlib3) we don't have notation for `Functor.mapConst`. 

Indeed it is essentially orthogonal to this PR, and the definition of `succeeds` is defeq to the one in mathlib3, so there's no point in blocking the PR for that imho. But I would expect some of these inconsistencies to come up again (especially the lack of notation for `mapConst`), so maybe it's worth adding these things somewhere (either in core or in mathlib).

Comment (semorrison) [reply Mathlib/Control/Basic.lean:180]: Okay. Let's keep moving.

**Comment by semorrison** [comment]
bors merge
